US07683067B2
2-Hydroxy-3-{5-[(4-methylpiperazin-1-yl)sulfonyl]pyridin-2-yl}-1H-indole-5-carbonitrile
A mixture of sodium hydride (0.157 g, 3.9 mmol, 60% dispersion in oil, pre-washed with hexane) in N,N-dimethylformamide (2 mL) was added to 2-oxoindoline-5-carbonitrile (0.464 g, 2.9 mmol) in N,N-dimethylformamide (5 mL). The formed brown mixture was stirred at room temperature for 10 min and 1-[(6-chloropyridin-3-yl)sulfonyl]-4-methylpiperazine (0.255 g, 0.92 mmol; described in: Thunus L. Annuale Pharmacetiques Francisies, 1977, 35, 197-203) in N,N-dimethylformamide (3 mL) was added. The obtained red solution was heated at 150° C. for 10 min and was then allowed to reach room temperature overnight. The solvent was removed in vacuo and the residue was partitioned between an aqueous HCl solution (2 M) and ethyl acetate. The aqueous mixture was alkalized to pH 8 by adding sodium hydrogen carbonate (s), and extracted with ethyl acetate (3×10 mL). The combined extracts were dried (Na2SO4), and the solvent was removed in vacuo. The residue was purified on a silica gel column using chloroform/methanol/conc. NH3 (aq), (84:14:2), as an eluent to afford 0.050 g. Further purification was done by preparative HPLC (Xterra column (19×300 mm) with 0.05 M NH4OAc buffer/acetonitrile, (90:10-30:70), as a eluent). Fractions containing product were collected, evaporated in vacuo, and dried at 25° C. in vacuo over night to afford 0.036 g (10% yield) of the title compound: 1H NMR (D2O, 400 MHz) δ 8.12 (s, 1H), 7.60 (d, J=10 Hz, 1H), 7.13 (s, 1H), 7.00 (dd, J=8, 2 Hz, 1H), 6.93 (d, J=9 Hz, 1H), 6.73 (dd, J=8, 2 Hz, 1H), 3.91 (d, J=13 Hz, 2H), 3.60 (d, J=11 Hz, 2H), 3.24 (app. t, J=11 Hz, 2H), 3.02 (app. t, J=12 Hz, 2H), 2.89 (s, 3H); MS (TSP) m/z 398 (M++1).

reactant | sodium hydride | 3.9 mmol, 0.157 g | [H-].[Na+]
reactant | 2-oxoindoline-5-carbonitrile | 2.9 mmol, 0.464 g | O=C1NC2=CC=C(C=C2C1)C#N | C9H6N2O
reactant | 1-[(6-chloropyridin-3-yl)sulfonyl]-4-methylpiperazine | 0.92 mmol, 0.255 g | ClC1=CC=C(C=N1)S(=O)(=O)N1CCN(CC1)C | C10H14ClN3O2S
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 2-Hydroxy-3-{5-[(4-methylpiperazin-1-yl)sulfonyl]pyridin-2-yl}-1H-indole-5-carbonitrile | 0.036 g, 10% yield | OC=1NC2=CC=C(C=C2C1C1=NC=C(C=C1)S(=O)(=O)N1CCN(CC1)C)C#N | C19H19N5O3S
